US07625886B2
(R)-2-[4-((S)-2-methoxycarbonyl-pyrrolidin-1-yl)-piperid in-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
93 mg (0.44 mmol) methyl (S)-1-piperidin-4-yl-pyrrolidine-2-carboxylate were added to a solution of 200 mg (0.39 mmol) (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenzoxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 140 mg (0.44 mmol) TBTU and 61 μL (0.44 mmol) triethylamine in 2 mL DMF and the reaction mixture was shaken overnight at RT. The reaction solution was purified by HPLC without working up; the fractions containing the product were concentrated by evaporation and lyophilised.

reactant | methyl (S)-1-piperidin-4-yl-pyrrolidine-2-carboxylate | 0.44 mmol, 93 mg | N1CCC(CC1)N1[C@@H](CCC1)C(=O)OC | C11H20N2O2
reactant | (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenzoxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.39 mmol, 200 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(O3)=O)C(=C1)C)C(=O)O)C=CC=C2 | C26H28N4O7
reactant | TBTU | 0.44 mmol, 140 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.44 mmol, 61 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-2-[4-((S)-2-methoxycarbonyl-pyrrolidin-1-yl)-piperid in-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1[C@@H](CCC1)C(=O)OC)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C37H46N6O8
